US06596751B2
3-[4-(6-Methoxy-1-methyl-1H-benzimidazol-2-ylmethoxy)phenyl]-2-methylthiopropionic amide (amide of exemplification compound number 5-4)
To a mixture of 3-[4-(6-methoxy-1-methyl-1H-benzimidazol-2-ylmethoxy)phenyl]-2-methylthiopropionic acid (1.1 g), tetrahydrofuran (15 ml) and dimethylformamide (15 ml) were added successively triethylamine (0.82 ml) and ethyl chloroformate (0.28 ml). The mixture was stirred at room temperature for 30 minutes. After addition of aqueous ammonia solution (5 ml, 28%) the mixture was stirred at room temperature for 15 minutes and allowed to stand overnight. The solvent of the reaction mixture was evaporated under reduced pressure. The residue was partitioned between ethyl acetate and water. The extract was washed with saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was washed with ethyl acetate and then recrystallized from a mixture of ethanol and ethyl acetate to afford the title compound (0.45 g, mp 204-206° C.).

reactant | 3-[4-(6-methoxy-1-methyl-1H-benzimidazol-2-ylmethoxy)phenyl]-2-methylthiopropionic acid | 1.1 g | COC=1C=CC2=C(N(C(=N2)COC2=CC=C(C=C2)CC(C(=S)O)C)C)C1 | C20H22N2O3S
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
reactant | ethyl chloroformate | 0.28 ml | ClC(=O)OCC | C3H5ClO2
reactant | ammonia | 5 ml | N | H3N
solvent | triethylamine | 0.82 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 3-[4-(6-Methoxy-1-methyl-1H-benzimidazol-2-ylmethoxy)phenyl]-2-methylthiopropionic amide | 0.45 g | COC=1C=CC2=C(N(C(=N2)COC2=CC=C(C=C2)CC(C(=S)N)C)C)C1 | C20H23N3O2S
